US07910585B2
To a stirring solution of 3-Fluoro-2-methyl-6-nitro-benzoic acid methyl ester (6 g, 28.2 mmol) and 2-(methylsulfonyl)ethanol (5.2 g, 42.2 mmol) in 47 mL of DMF is added sodium hydride (3.38 g, 84.6 mmol) at 0° C. and the reaction mixture is allowed to warm to room temperature and then stirred for 1.5 hours. The mixture is quenched with 1N HCl solution and partitioned between ethyl acetate. The organic layer is washed with brine and concentrated to dryness and the crude organics purified by flash column chromatography to give 3-Hydroxy-2-methyl-6-nitro-benzoic acid methyl ester (5.3 g) in 89% yields. 1H-NMR (400 MHz, δ, ppm) CDCl3: 2.22 (s, 3H), 3.99 (s, 3H), 6.38 (s, 1H), 6.87 (d, 1H), 7.99 (d, 1H).

reactant | 3-Fluoro-2-methyl-6-nitro-benzoic acid methyl ester | 28.2 mmol, 6 g | COC(C1=C(C(=CC=C1[N+](=O)[O-])F)C)=O | C9H8FNO4
reactant | 2-(methylsulfonyl)ethanol | 42.2 mmol, 5.2 g | CS(=O)(=O)CCO | C3H8O3S
reactant | sodium hydride | 84.6 mmol, 3.38 g | [H-].[Na+]
solvent | DMF | 47 mL | CN(C)C=O | C3H7NO
product | 3-Hydroxy-2-methyl-6-nitro-benzoic acid methyl ester | 5.3 g | COC(C1=C(C(=CC=C1[N+](=O)[O-])O)C)=O | C9H9NO5
